US07241460B2
Production of Strontium Alanine Salt
Strontium hydroxide octahydrate (1.0 g, 3.79 mmol) and L-alanine (0.67 g, 7.52 mmol) in water (30 ml) were stirred for 4 hours at room temperature. The mixture was filtered and the filtrate was evaporated to dryness and dried in vaccuo at ambient temperature. Yield 0.81 g (63%).

reactant | Strontium hydroxide octahydrate | 3.79 mmol, 1.0 g | O.O.O.O.O.O.O.O.[OH-].[Sr+2].[OH-]
reactant | L-alanine | 7.52 mmol, 0.67 g | N[C@@H](C)C(=O)O | C3H7NO2
solvent | water | 30 ml | O | H2O
product | Strontium Alanine Salt | N[C@@H](C)C(=O)[O-].[Sr+2].N[C@@H](C)C(=O)[O-] | InChI=1S/2C3H7NO2.Sr/c2*1-2(4)3(5)6;/h2*2H,4H2,1H3,(H,5,6);/q;;+2/p-2/t2*2-;/m00./s1
